US04266056
Ten grams of α-cyano-β-ethoxy-N-ethoxycarbonylacrylamide is dissolved by heating in 50 ml of ethanol to 60°. Then 5.32 g of 2-methylaniline in 20 ml ethanol is added and the mixture heated at reflux for 4 hours with stirring. Crystals appear on cooling and the mixture is filtered and washed with ether to yield 11.36 g of α-cyano-β-(2-methylanilino)-N-ethoxycarbonylacrylamide, which is dissolved in tetralin and heated at reflux for 3 hours. After cooling, the mixture is filtered, washed with ether, to yield 5-cyano-1-(2-methylphenyl)uracil, m.p. 251.5°-2.52.5°.

reactant | α-cyano-β-ethoxy-N-ethoxycarbonylacrylamide | Ten grams | C(#N)C(C(=O)NC(=O)OCC)=COCC | C9H12N2O4
reactant | 2-methylaniline | 5.32 g | CC1=C(N)C=CC=C1 | C7H9N
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | α-cyano-β-(2-methylanilino)-N-ethoxycarbonylacrylamide | 11.36 g | C(#N)C(C(=O)NC(=O)OCC)=CNC1=C(C=CC=C1)C | C14H15N3O3
